US08008481B2
4-bromo-2-iodo-6-methyl-phenylamine (31.08 g, 99.6 mmol) was dissolved in glacial acetic acid (400 mL) in a 1 L round bottom flask equipped with a stir bar. The flask was then charged in one portion with sodium nitrite (7.56 g, 109.6 mmol) dissolved in water (18.7 mL). The mixture was stirred for about 15 minutes then the solvents were removed by evaporation on a rotovap at a bath temperature of about 35° C. The residue was stirred with water (200 mL) for 15 minutes and the resulting solid was collected by filtration and dried to yield 5-bromo-7-iodo-1H-indazole (30.6 g, 95%) as a brownish-tan solid; (DMSO-d6, 400 MHz) δ 13.6 (bs, 1H), 8.24 (s, 1H), 8.04 (d, J=1.54 Hz, 1H), and 7.88 (d, J=1.54 Hz, 1H); RP-HPLC (Table 1, Method e) Rt=3.63 min; m/z: (M−H)− 322.8.

reactant | 4-bromo-2-iodo-6-methyl-phenylamine | 99.6 mmol, 31.08 g | BrC1=CC(=C(C(=C1)C)N)I | C7H7BrIN
reactant | sodium nitrite | 109.6 mmol, 7.56 g | N(=O)[O-].[Na+]
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
solvent | water | 18.7 mL | O | H2O
product | 5-bromo-7-iodo-1H-indazole | 30.6 g, 95% | BrC=1C=C2C=NNC2=C(C1)I | C7H4BrIN2
